simulator lang=spectre
global 0

ahdl_include "./dut/limiting_differential_amplifier.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.15 10n 0.15 10.1n 0.50 20n 0.50 20.1n 0.75 30n 0.75 30.1n 0.60 45n 0.60]
Vn (sigin_n 0) vsource dc=0.45
XDUT (sigin_p sigin_n sigout) limiting_differential_amplifier gain=3 sigout_high=0.8 sigout_low=-0.4 sigin_offset=0.05

simulatorOptions options evas_profile=balanced

tran tran stop=40n maxstep=25p
save sigin_n sigin_p sigout
